**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  SMT High Current Flat Wire Inductor 
* Matchcode:              WE-HCM
* Library Type:           LTspice
* Version:                rev25a
* Created/modified by:    Ella
* Date and Time:          5/5/2025
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2025 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 1012_74431012007_0.07u 1 2
Rp 1 2 40.568
Cp 1 2 19.851p
Rs 1 N3 0.000125
L1 N3 2 0.072695u
.ends 1012_74431012007_0.07u
*******
.subckt 1012_74431012010_0.1u 1 2
Rp 1 2 42.873
Cp 1 2 26.75p
Rs 1 N3 0.000125
L1 N3 2 0.104646u
.ends 1012_74431012010_0.1u
*******
.subckt 1012_74431012012_0.12u 1 2
Rp 1 2 41.713
Cp 1 2 27.23p
Rs 1 N3 0.000125
L1 N3 2 0.121321u
.ends 1012_74431012012_0.12u
*******
.subckt 1012_74431012015_0.15u 1 2
Rp 1 2 43.925
Cp 1 2 32.908p
Rs 1 N3 0.000125
L1 N3 2 0.147752u
.ends 1012_74431012015_0.15u
*******
.subckt 1050_744303012_0.12u 1 2
Rp 1 2 34.794
Cp 1 2 60.722p
Rs 1 N3 0.000325
L1 N3 2 0.124543u
.ends 1050_744303012_0.12u
*******
.subckt 1050_744303015_0.155u 1 2
Rp 1 2 32.727
Cp 1 2 64.673p
Rs 1 N3 0.000325
L1 N3 2 0.145835u
.ends 1050_744303015_0.155u
*******
.subckt 1050_744303022_0.22u 1 2
Rp 1 2 33.588
Cp 1 2 102.565p
Rs 1 N3 0.000325
L1 N3 2 0.222463u
.ends 1050_744303022_0.22u
*******
.subckt 1050_744303033_0.33u 1 2
Rp 1 2 33.883
Cp 1 2 209.662p
Rs 1 N3 0.000325
L1 N3 2 0.303359u
.ends 1050_744303033_0.33u
*******
.subckt 1052_744306020_0.2u 1 2
Rp 1 2 32.558
Cp 1 2 58.618p
Rs 1 N3 0.00025
L1 N3 2 0.179685u
.ends 1052_744306020_0.2u
*******
.subckt 1052_744306025_0.25u 1 2
Rp 1 2 30.487
Cp 1 2 87.999p
Rs 1 N3 0.00025
L1 N3 2 0.232178u
.ends 1052_744306025_0.25u
*******
.subckt 1052_744306030_0.3u 1 2
Rp 1 2 36.089
Cp 1 2 98.702p
Rs 1 N3 0.00025
L1 N3 2 0.259702u
.ends 1052_744306030_0.3u
*******
.subckt 1070_744308015_0.15u 1 2
Rp 1 2 37.703
Cp 1 2 50.594p
Rs 1 N3 0.00037
L1 N3 2 0.141446u
.ends 1070_744308015_0.15u
*******
.subckt 1070_744308020_0.2u 1 2
Rp 1 2 42.954
Cp 1 2 61.676p
Rs 1 N3 0.00037
L1 N3 2 0.201543u
.ends 1070_744308020_0.2u
*******
.subckt 1070_744308025_0.25u 1 2
Rp 1 2 40.161
Cp 1 2 56.291p
Rs 1 N3 0.00037
L1 N3 2 0.233356u
.ends 1070_744308025_0.25u
*******
.subckt 1070_744308033_0.33u 1 2
Rp 1 2 46.243
Cp 1 2 58.328p
Rs 1 N3 0.00037
L1 N3 2 0.2807u
.ends 1070_744308033_0.33u
*******
.subckt 1070_744308040_0.4u 1 2
Rp 1 2 49.288
Cp 1 2 84.768p
Rs 1 N3 0.00037
L1 N3 2 0.442422u
.ends 1070_744308040_0.4u
*******
.subckt 1078_7443081010_0.1u 1 2
Rp 1 2 32.472
Cp 1 2 42.93p
Rs 1 N3 0.00029
L1 N3 2 0.113259u
.ends 1078_7443081010_0.1u
*******
.subckt 1078_7443081012_0.12u 1 2
Rp 1 2 35.012
Cp 1 2 50.448p
Rs 1 N3 0.00029
L1 N3 2 0.120201u
.ends 1078_7443081012_0.12u
*******
.subckt 1078_7443081015_0.15u 1 2
Rp 1 2 39.383
Cp 1 2 57.887p
Rs 1 N3 0.00029
L1 N3 2 0.15418u
.ends 1078_7443081015_0.15u
*******
.subckt 1078_7443081018_0.18u 1 2
Rp 1 2 38.658
Cp 1 2 66.851p
Rs 1 N3 0.00029
L1 N3 2 0.18594u
.ends 1078_7443081018_0.18u
*******
.subckt 1078_7443081022_0.22u 1 2
Rp 1 2 42.035
Cp 1 2 73.415p
Rs 1 N3 0.00029
L1 N3 2 0.22315u
.ends 1078_7443081022_0.22u
*******
.subckt 1078_7443081030_0.3u 1 2
Rp 1 2 45.22
Cp 1 2 81.974p
Rs 1 N3 0.00029
L1 N3 2 0.294145u
.ends 1078_7443081030_0.3u
*******
.subckt 1078_7443081040_0.4u 1 2
Rp 1 2 44.806
Cp 1 2 101.319p
Rs 1 N3 0.00029
L1 N3 2 0.370153u
.ends 1078_7443081040_0.4u
*******
.subckt 1088_7443082010B_0.1u 1 2
Rp 1 2 25.997
Cp 1 2 71.691p
Rs 1 N3 0.000114
L1 N3 2 0.106562u
.ends 1088_7443082010B_0.1u
*******
.subckt 1088_7443082012B_0.12u 1 2
Rp 1 2 30.043
Cp 1 2 67.71p
Rs 1 N3 0.000114
L1 N3 2 0.112826u
.ends 1088_7443082012B_0.12u
*******
.subckt 1088_7443082015B_0.15u 1 2
Rp 1 2 29.473
Cp 1 2 96.191p
Rs 1 N3 0.000114
L1 N3 2 0.158147u
.ends 1088_7443082015B_0.15u
*******
.subckt 1088_7443082010_0.1u 1 2
Rp 1 2 30.365
Cp 1 2 56.65p
Rs 1 N3 0.00018
L1 N3 2 0.109099u
.ends 1088_7443082010_0.1u
*******
.subckt 1088_7443082012_0.12u 1 2
Rp 1 2 30.759
Cp 1 2 66.52p
Rs 1 N3 0.00018
L1 N3 2 0.114846u
.ends 1088_7443082012_0.12u
*******
.subckt 1088_7443082015A_0.15u 1 2
Rp 1 2 32.221
Cp 1 2 48.42p
Rs 1 N3 0.00015
L1 N3 2 0.149634u
.ends 1088_7443082015A_0.15u
*******
.subckt 1088_7443082015_0.15u 1 2
Rp 1 2 31.884
Cp 1 2 76.715p
Rs 1 N3 0.00018
L1 N3 2 0.160427u
.ends 1088_7443082015_0.15u
*******
.subckt 1088_7443082017_0.17u 1 2
Rp 1 2 31.789
Cp 1 2 90.427p
Rs 1 N3 0.00018
L1 N3 2 0.168229u
.ends 1088_7443082017_0.17u
*******
.subckt 1088_7443082018A_0.18u 1 2
Rp 1 2 35.058
Cp 1 2 61.475p
Rs 1 N3 0.00015
L1 N3 2 0.189867u
.ends 1088_7443082018A_0.18u
*******
.subckt 1088_7443082018_0.18u 1 2
Rp 1 2 26.238
Cp 1 2 118.396p
Rs 1 N3 0.00018
L1 N3 2 0.18618u
.ends 1088_7443082018_0.18u
*******
.subckt 1088_7443082022_0.22u 1 2
Rp 1 2 26.644
Cp 1 2 199.276p
Rs 1 N3 0.00018
L1 N3 2 0.232252u
.ends 1088_7443082022_0.22u
*******
.subckt 1190_744301025_0.25u 1 2
Rp 1 2 34.014
Cp 1 2 117.598p
Rs 1 N3 0.00032
L1 N3 2 0.257592u
.ends 1190_744301025_0.25u
*******
.subckt 1190_744301033_0.33u 1 2
Rp 1 2 43.731
Cp 1 2 108.936p
Rs 1 N3 0.00032
L1 N3 2 0.402932u
.ends 1190_744301033_0.33u
*******
.subckt 1190_744301047_0.47u 1 2
Rp 1 2 40.182
Cp 1 2 146.909p
Rs 1 N3 0.00032
L1 N3 2 0.535141u
.ends 1190_744301047_0.47u
*******
.subckt 1240_744304010_0.1u 1 2
Rp 1 2 33.658
Cp 1 2 48.691p
Rs 1 N3 0.00017
L1 N3 2 0.097392u
.ends 1240_744304010_0.1u
*******
.subckt 1240_744304016_0.16u 1 2
Rp 1 2 39.384
Cp 1 2 68.216p
Rs 1 N3 0.00017
L1 N3 2 0.162275u
.ends 1240_744304016_0.16u
*******
.subckt 1240_744304022_0.22u 1 2
Rp 1 2 41.681
Cp 1 2 79.229p
Rs 1 N3 0.00017
L1 N3 2 0.237331u
.ends 1240_744304022_0.22u
*******
.subckt 1323_74431323012_0.12u 1 2
Rp 1 2 54.656
Cp 1 2 6.513p
Rs 1 N3 0.0007
L1 N3 2 0.120635u
.ends 1323_74431323012_0.12u
*******
.subckt 1323_74431323016_0.16u 1 2
Rp 1 2 60.928
Cp 1 2 10.286p
Rs 1 N3 0.0007
L1 N3 2 0.15146u
.ends 1323_74431323016_0.16u
*******
.subckt 1350_744305022_0.22u 1 2
Rp 1 2 30.767
Cp 1 2 92.176p
Rs 1 N3 0.000155
L1 N3 2 0.198057u
.ends 1350_744305022_0.22u
*******
.subckt 1350_744305033_0.33u 1 2
Rp 1 2 29.187
Cp 1 2 215.923p
Rs 1 N3 0.000155
L1 N3 2 0.302943u
.ends 1350_744305033_0.33u
*******
.subckt 1350_744305040_0.4u 1 2
Rp 1 2 35.452
Cp 1 2 199.577p
Rs 1 N3 0.000155
L1 N3 2 0.377688u
.ends 1350_744305040_0.4u
*******
.subckt 1390_744309012_0.12u 1 2
Rp 1 2 27.678
Cp 1 2 180.399p
Rs 1 N3 0.000165
L1 N3 2 0.134382u
.ends 1390_744309012_0.12u
*******
.subckt 1390_744309025_0.25u 1 2
Rp 1 2 30.462
Cp 1 2 172.114p
Rs 1 N3 0.000165
L1 N3 2 0.248366u
.ends 1390_744309025_0.25u
*******
.subckt 1390_744309033_0.33u 1 2
Rp 1 2 37.509
Cp 1 2 154.374p
Rs 1 N3 0.000165
L1 N3 2 0.342539u
.ends 1390_744309033_0.33u
*******
.subckt 1390_744309047_0.47u 1 2
Rp 1 2 33.072
Cp 1 2 363.146p
Rs 1 N3 0.000165
L1 N3 2 0.486031u
.ends 1390_744309047_0.47u
*******
.subckt 1411_7443091062_0.62u 1 2
Rp 1 2 114.953
Cp 1 2 31.88p
Rs 1 N3 0.00042
L1 N3 2 0.572651u
.ends 1411_7443091062_0.62u
*******
.subckt 1411_7443091080_0.8u 1 2
Rp 1 2 129.544
Cp 1 2 30.918p
Rs 1 N3 0.00042
L1 N3 2 0.784088u
.ends 1411_7443091080_0.8u
*******
.subckt 1411_7443091100_1u 1 2
Rp 1 2 131.264
Cp 1 2 27.425p
Rs 1 N3 0.00042
L1 N3 2 1.17u
.ends 1411_7443091100_1u
*******
.subckt 1411_7443091120_1.2u 1 2
Rp 1 2 133.18
Cp 1 2 52.205p
Rs 1 N3 0.00042
L1 N3 2 1.253u
.ends 1411_7443091120_1.2u
*******
.subckt 1411_7443091150_1.5u 1 2
Rp 1 2 151.243
Cp 1 2 47.885p
Rs 1 N3 0.00042
L1 N3 2 1.574u
.ends 1411_7443091150_1.5u
*******
.subckt 1435_74431435010_0.1u 1 2
Rp 1 2 48.775
Cp 1 2 9.036p
Rs 1 N3 0.00028
L1 N3 2 0.116863u
.ends 1435_74431435010_0.1u
*******
.subckt 1435_74431435012_0.12u 1 2
Rp 1 2 46.276
Cp 1 2 33.647p
Rs 1 N3 0.00028
L1 N3 2 0.1166u
.ends 1435_74431435012_0.12u
*******
.subckt 1435_74431435015_0.15u 1 2
Rp 1 2 38.143
Cp 1 2 38.221p
Rs 1 N3 0.00028
L1 N3 2 0.155359u
.ends 1435_74431435015_0.15u
*******
.subckt 1435_74431435018_0.18u 1 2
Rp 1 2 38.548
Cp 1 2 45.992p
Rs 1 N3 0.00028
L1 N3 2 0.182372u
.ends 1435_74431435018_0.18u
*******
.subckt 1435_74431435022_0.22u 1 2
Rp 1 2 28.498
Cp 1 2 95.178p
Rs 1 N3 0.00028
L1 N3 2 0.221032u
.ends 1435_74431435022_0.22u
*******
.subckt 1820_74431821100_1u 1 2
Rp 1 2 163.9
Cp 1 2 33.57p
Rs 1 N3 0.00033
L1 N3 2 0.7717u
.ends 1820_74431821100_1u
*******
.subckt 4030_744340300025_0.025u 1 2
Rp 1 2 38.094
Cp 1 2 15.977p
Rs 1 N3 0.00027
L1 N3 2 0.071251u
.ends 4030_744340300025_0.025u
*******
.subckt 4030_744340300030_0.03u 1 2
Rp 1 2 33.974
Cp 1 2 35.541p
Rs 1 N3 0.00027
L1 N3 2 0.099838u
.ends 4030_744340300030_0.03u
*******
.subckt 4030_744340300055_0.055u 1 2
Rp 1 2 35.911
Cp 1 2 36.528p
Rs 1 N3 0.00027
L1 N3 2 0.12274u
.ends 4030_744340300055_0.055u
*******
.subckt 4030_744340300075_0.075u 1 2
Rp 1 2 41.646
Cp 1 2 33.261p
Rs 1 N3 0.00027
L1 N3 2 0.151517u
.ends 4030_744340300075_0.075u
*******
.subckt 4035_74434035007_0.07u 1 2
Rp 1 2 26.14
Cp 1 2 66.47p
Rs 1 N3 0.00038
L1 N3 2 0.066946u
.ends 4035_74434035007_0.07u
*******
.subckt 4035_74434035010_0.1u 1 2
Rp 1 2 33.456
Cp 1 2 43.299p
Rs 1 N3 0.00038
L1 N3 2 0.087565u
.ends 4035_74434035010_0.1u
*******
.subckt 5030_74435030010_0.1u 1 2
Rp 1 2 38.192
Cp 1 2 40.705p
Rs 1 N3 0.00031
L1 N3 2 0.093146u
.ends 5030_74435030010_0.1u
*******
.subckt 7050_744302007_0.072u 1 2
Rp 1 2 24.201
Cp 1 2 66.09p
Rs 1 N3 0.000235
L1 N3 2 0.079023u
.ends 7050_744302007_0.072u
*******
.subckt 7050_744302010_0.105u 1 2
Rp 1 2 23.863
Cp 1 2 98.736p
Rs 1 N3 0.000235
L1 N3 2 0.108732u
.ends 7050_744302010_0.105u
*******
.subckt 7050_744302015_0.15u 1 2
Rp 1 2 27.053
Cp 1 2 118.63p
Rs 1 N3 0.000235
L1 N3 2 0.158503u
.ends 7050_744302015_0.15u
*******
.subckt 7070_744307012_0.12u 1 2
Rp 1 2 29.9
Cp 1 2 71.443p
Rs 1 N3 0.00029
L1 N3 2 0.118184u
.ends 7070_744307012_0.12u
*******
.subckt 7070_744307016_0.16u 1 2
Rp 1 2 30.237
Cp 1 2 96.374p
Rs 1 N3 0.00029
L1 N3 2 0.14164u
.ends 7070_744307016_0.16u
*******
.subckt 7070_744307022_0.22u 1 2
Rp 1 2 32.469
Cp 1 2 111.362p
Rs 1 N3 0.00029
L1 N3 2 0.19817u
.ends 7070_744307022_0.22u
*******
.subckt 9065_744300006_0.06u 1 2
Rp 1 2 26.171
Cp 1 2 41.547p
Rs 1 N3 0.00022
L1 N3 2 0.061151u
.ends 9065_744300006_0.06u
*******
.subckt 9065_744300008_0.08u 1 2
Rp 1 2 27.802
Cp 1 2 50.713p
Rs 1 N3 0.00022
L1 N3 2 0.080995u
.ends 9065_744300008_0.08u
*******
.subckt 9065_744300010_0.1u 1 2
Rp 1 2 29.441
Cp 1 2 57.625p
Rs 1 N3 0.00022
L1 N3 2 0.098186u
.ends 9065_744300010_0.1u
*******
.subckt 9065_744300015_0.15u 1 2
Rp 1 2 33.719
Cp 1 2 74.4p
Rs 1 N3 0.00022
L1 N3 2 0.156325u
.ends 9065_744300015_0.15u
*******
.subckt 9065_744300022_0.22u 1 2
Rp 1 2 34.913
Cp 1 2 92.694p
Rs 1 N3 0.00022
L1 N3 2 0.202852u
.ends 9065_744300022_0.22u
*******
